US08198269B2
(2) Synthesis of t-butyl 5-((E)-2-dimethylaminovinyl)pyrazine-2-carboxylate
A mixture of t-butyl 5-methylpyrazine-2-carboxylate (1.35 g), N,N-dimethylformamide (25 mL) and N,N-dimethylformamide dimethylacetal (25 mL) was stirred at 130° C. for five hours. The reaction solution was cooled to room temperature and diluted with ethyl acetate. The mixture was washed with a saturated sodium chloride solution three times. The organic layer was dried over anhydrous magnesium sulfate, and the insoluble matter was separated by filtration. The filtrate was concentrated and the residue was purified by silica gel column chromatography to obtain the title compound (648 mg).

reactant | t-butyl 5-methylpyrazine-2-carboxylate | 1.35 g | CC=1N=CC(=NC1)C(=O)OC(C)(C)C | C10H14N2O2
reactant | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide dimethylacetal | 25 mL | COC(N(C)C)OC | C5H13NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl 5-((E)-2-dimethylaminovinyl)pyrazine-2-carboxylate | 648 mg | CN(/C=C/C=1N=CC(=NC1)C(=O)OC(C)(C)C)C | C13H19N3O2
